* c:\users\jagad\esim-workspace\jkflipflop\jkflipflop.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 vdd k net-_m1-pad3_ vdd CMOSP W=100u L=100u M=1
m4 vdd q net-_m1-pad3_ vdd CMOSP W=100u L=100u M=1
m6 vdd clock net-_m1-pad3_ vdd CMOSP W=100u L=100u M=1
m11 vdd clock net-_m11-pad3_ vdd CMOSP W=100u L=100u M=1
m16 vdd clock net-_m11-pad3_ vdd CMOSP W=100u L=100u M=1
m13 vdd qbar net-_m11-pad3_ vdd CMOSP W=100u L=100u M=1
m7 net-_m1-pad3_ qbar q net-_m1-pad3_ CMOSP W=100u L=100u M=1
m9 net-_m11-pad3_ q net-_m10-pad1_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
m2 q k net-_m2-pad3_ q CMOSN W=100u L=100u M=1
m8 q qbar gnd q CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ q gnd net-_m10-pad1_ CMOSN W=100u L=100u M=1
m15 qbar clock net-_m14-pad1_ qbar CMOSN W=100u L=100u M=1
m3 net-_m2-pad3_ clock net-_m3-pad3_ net-_m2-pad3_ CMOSN W=100u L=100u M=1
m14 net-_m14-pad1_ clock net-_m12-pad1_ net-_m14-pad1_ CMOSN W=100u L=100u M=1
m5 net-_m3-pad3_ q gnd net-_m3-pad3_ CMOSN W=100u L=100u M=1
m12 net-_m12-pad1_ qbar gnd net-_m12-pad1_ CMOSN W=100u L=100u M=1
v1  k gnd pulse(0 5 0 1 1 5 50)
v4  clock gnd pulse(0 5 0 1 1 5 50)
v3  clock gnd pulse(0 5 0 1 1 5 50)
* u1  k plot_db
* u2  q plot_db
* u3  qbar plot_db
* u5  clock plot_db
* u4  clock plot_db
.tran 5e-00 200e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot db(k)
plot db(q)
plot db(qbar)
plot db(clock)
plot db(clock)
.endc
.end
